US08022205B2
4-(3-Benzyloxy-2,6-difluoro-phenyl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-25)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 3-benzyloxy-2,6-difluorophenylboronic acid as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | 3-benzyloxy-2,6-difluorophenylboronic acid | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)F)B(O)O)F | C13H11BF2O3
reactant | boronic acid | B(O)O | BH3O2
product | 4-(3-Benzyloxy-2,6-difluoro-phenyl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)F)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2)F | C28H25F2N5O2
